US06008224
To a solution of 4-t-butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]benzene sulfonamide (3.2 g) in dimethylformamide (50 ml) was added pyridinium dichromate (31.9 g). The mixture was stirred for 12 hours at room temperature, and subsequently supplemented with pyridinium dichromate (10.6 g), followed by stirring for 12 hours. Ethyl acetate was added, and the mixture was washed with 1N-HCl and then with water. The organic layer was extracted with sat. aq. NaHCO3, and the aqueous layer was washed with ethyl acetate. The aqueous layer was acidified with dilute HCL, and then extracted with ethyl acetate. The organic layer was washed with saturated brine. Drying over anhydrous magnesium sulfate and concentrating under reduced pressure gave 1.85 g of 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyloxy]propionic acid as a pale yellow powder.

reactant | 4-t-butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]benzene sulfonamide | 3.2 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)C1=NC=CC=N1 | C28H31N5O6S
reactant | pyridinium dichromate | 31.9 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | pyridinium dichromate | 10.6 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyloxy]propionic acid | 1.85 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)C1=NC=CC=N1)OCCC(=O)O)OC1=C(C=CC=C1)OC | C28H29N5O7S
